US08378104B2
Step B: trans-4-(4-{7-amino-2-[5-(3-fluorophenyl)-1,2,3-benzothiadiazol-7-yl]furo[2,3-c]pyridin-4-yl}-1H-pyrazol-1-yl)cyclohexanol (Title Compound)
The title compound was prepared from {7-[bis(tert-butoxycarbonyl)amino]-4-[1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-pyrazol-4-yl]furo[2,3-c]pyridin-2-yl}boronic acid and 7-bromo-5-(3-fluorophenyl)-1,2,3-benzothiadiazole by a procedure analogous to Example 368. 1H NMR (400 MHz, CD3OD): δ 1.48-1.57 (m, 2 H), 1.94-2.05 (m, 2 H), 2.11-2.22 (m, 4 H), 3.67-3.75 (m, 1 H), 4.21-4.29 (m, 1 H), 7.19-7.26 (m, 1 H), 7.53-7.63 (m, 2 H), 7.72-7.77 (m, 2 H), 7.89 (s, 2 H), 8.08 (s, 1 H), 8.70 (s, 1 H), 8.90 (s, 1 H); MS (ESI): 527.60 [M+H]+; HPLC tR=1.07 min (TOF: polar—2 min).

reactant | {7-[bis(tert-butoxycarbonyl)amino]-4-[1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-pyrazol-4-yl]furo[2,3-c]pyridin-2-yl}boronic acid | C(C)(C)(C)OC(=O)N(C=1N=CC(=C2C1OC(=C2)B(O)O)C=2C=NN(C2)[C@@H]2CC[C@H](CC2)O[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C | C32H49BN4O8Si
reactant | 7-bromo-5-(3-fluorophenyl)-1,2,3-benzothiadiazole | BrC1=CC(=CC=2N=NSC21)C2=CC(=CC=C2)F | C12H6BrFN2S
product | trans-4-(4-{7-amino-2-[5-(3-fluorophenyl)-1,2,3-benzothiadiazol-7-yl]furo[2,3-c]pyridin-4-yl}-1H-pyrazol-1-yl)cyclohexanol | NC=1N=CC(=C2C1OC(=C2)C2=CC(=CC=1N=NSC12)C1=CC(=CC=C1)F)C=1C=NN(C1)[C@@H]1CC[C@H](CC1)O | C28H23FN6O2S
